US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinedecanoic acid ethyl ester
A solution of 4.4 g (0.018 mole) of 10-bromodecanoic acid, 3 ml of methane sulfonic acid, and 250 ml of absolute ethanol was heated at reflux for 2 h. The mixture was concentrated under reduced pressure and the residue partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to yield 5.0 g (100%) of ethyl 10-bromodecanoate as a yellow oil. A mixture of 4.6 g (0.015 mole) of α,α-bis(4-fluorophenyl)-4-piperidinemethanol, 4.2 g (0.015 mole) of ethyl 10-bromodecanoate, 6.4 g (0.015 mole) of anhydrous sodium carbonate and 0.3 g (0.002 mole) of potassium iodide in 50 ml of N,N-dimethylformamide was heated on a steam bath fo 6 h. The mixture was poured into 1 L of water and extracted three times with 250 ml portions of ethyl acetate. The ethyl acetate extracts were combined, washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to give a dark oil. The oil was purified by high pressure liquid chromatography (Water Associates Prep LC/System 500A; PrepPAK® 500/silica; ethyl acetate-hexane 2:1; flow rate 150 ml/min). The fractions containing the desired product were combined and concentrated under reduced pressure to yield 4.5 g (60%) of the title compound as a golden, viscous oil.

reactant | α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.015 mole, 4.6 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | ethyl 10-bromodecanoate | 0.015 mole, 4.2 g | BrCCCCCCCCCC(=O)OCC | C12H23BrO2
reactant | sodium carbonate | 0.015 mole, 6.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.002 mole, 0.3 g | [I-].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 1 L | O | H2O
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinedecanoic acid ethyl ester | 4.5 g, 60% | C(C)OC(CCCCCCCCCN1CCC(CC1)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C30H41F2NO3
